US06043375
To a solution of 2.1 g of methyl (4S,5R)-3-tert-butoxycarbonyl-2,2-dimethyl-4-[α-methyl-(4-methoxy)benzyloxycarbonyl]-5-oxazolidinecarboxylate in 55 cm3 of ethanol is added, at a temperature in the region of 25° C., a solution of 0.172 g of lithium hydroxide hydrate in 10 cm3 of distilled water. The reaction medium is stirred for 2 hours at a temperature in the region of 20° and then concentrated to dryness under reduced pressure (2.7 kPa) at a temperature in the region of 40° C. The evaporation residue is dissolved in 20 cm3 of distilled water and the solution obtained is washed with twice 15 cm3 of diethyl ether, acidified to a pH in the region of 2 by addition of aqueous 0.5N hydrochloric acid solution and extracted with twice 100 cm3 of ethyl acetate. The organic phases are combined, washed with twice 15 cm3 of distilled water, dried over magnesium sulphate, filtered and then concentrated to dryness under reduced pressure (2.7 kPa) at a temperature in the region of 40° C. 1.9 g of (4S,5R)-3-tert-butoxycarbonyl-2,2-dimethyl-4-[α-methyl-(4-methoxy)benzyloxycarbonyl]-5-oxazolidinecarboxylic acid are thus obtained in the form of a white foam.

reactant | methyl (4S,5R)-3-tert-butoxycarbonyl-2,2-dimethyl-4-[α-methyl-(4-methoxy)benzyloxycarbonyl]-5-oxazolidinecarboxylate | 2.1 g | C(C)(C)(C)OC(=O)N1C(O[C@H]([C@H]1C(=O)OC(C1=CC=C(C=C1)OC)C)C(=O)OC)(C)C | C22H31NO8
reactant | lithium hydroxide hydrate | 0.172 g | O.[OH-].[Li+]
solvent | ethanol | 55 cm3 | C(C)O | C2H6O
solvent | water | 10 cm3 | O | H2O
product | (4S,5R)-3-tert-butoxycarbonyl-2,2-dimethyl-4-[α-methyl-(4-methoxy)benzyloxycarbonyl]-5-oxazolidinecarboxylic acid | 1.9 g | C(C)(C)(C)OC(=O)N1C(O[C@H]([C@H]1C(=O)OC(C1=CC=C(C=C1)OC)C)C(=O)O)(C)C | C21H29NO8
